US07160888B2
Synthesis of 7-{4-[4-(6,7,8,9-Tetrahydro-5H-benzocyclohepten-1-yl)-piperazin-1-yl]-butoxy}-3,4-dihydro-1H-[1,8]naphthyridin-2-one
In a manner similar to that of other examples above, 6,7,8,9-tetrahydro-5H-benzocyclohepten-1-ylamine (0.178 g) was coupled by reductive amination to 4-(7-oxo-5,6,7,8-tetrahydro-[1,8]naphthyridin-2-yloxy)-butyraldehyde followed by typical workup and purification to give the title compound as the hydrochloride salt (0.109 g). MS: APCI: M+1: 449.3 (Exact Mass: 448.26).

reactant | 6,7,8,9-tetrahydro-5H-benzocyclohepten-1-ylamine | 0.178 g | C1(=CC=CC2=C1CCCCC2)N | C11H15N
reactant | 4-(7-oxo-5,6,7,8-tetrahydro-[1,8]naphthyridin-2-yloxy)-butyraldehyde | O=C1CCC=2C=CC(=NC2N1)OCCCC=O | C12H14N2O3
product | 7-{4-[4-(6,7,8,9-Tetrahydro-5H-benzocyclohepten-1-yl)-piperazin-1-yl]-butoxy}-3,4-dihydro-1H-[1,8]naphthyridin-2-one | C1(=CC=CC2=C1CCCCC2)N2CCN(CC2)CCCCOC2=CC=C1CCC(NC1=N2)=O | C27H36N4O2
